Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / ibuprofen
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a ___ woman w/ PMH of HTN, NIDDM,
hypothyroidism, anxiety/depression who presents with fever,
cough, and shortness of breath.

Patient reports that she developed shortness of breath and 
cough,
along with diffuse muscle aches and headache, beginning on ___.
She received a pneumovax vaccination this year, but has not
gotten a flu shot. She subsequently presented to ___ ER for
further evaluation. 

In the ER, initial vitals were T 102.9F, HR 85, BP 153/88, RR 
20,
O2 sat 95% on RA. Labs were notable for normal CBC and chem
panel, mild AST elevation to 48, but otherwise normal LFTs, and
MB elevation to 16 which downtrended to 13 on recheck. UA was
notable for proteinuria of 100 mg/dL. Influenza A PCR was
positive. CXR demonstrated mild RML infiltrate concerning for
possible PNA. The patient subsequently remained in the ER for
over 48hrs while awaiting an inpatient bed. During that time, 
she
was given oseltamivir 75mg BID, ceftriaxone 1gm, and first
azithromycin before transitioning to doxycycline 100mg BID all
starting ___ AM, as well as nebulizer therapies. She
subsequently received an inpatient bed and was admitted to
Medicine service on ___ AM. 

Upon arrival to the floor, the patient's vitals were T 98.7F, BP
151/108, HR 83, RR 16, O2 sat 95% RA. She reports that her 
fevers
and muscle aches have resolved, although she is still
experiencing a mild cough which she describes as non-productive.
She also reports a mild epigastric pain that she describes as
dull, ___, worsening with palpation and sitting up, but
otherwise non-exertional and non-pleuritic.

 
Past Medical History:
HTN
NIDDM
Hypothyroidism
Anxiety/depression
 
Social History:
___
Family History:
Mother w/ breast cancer at age ___
Aunt w/ breast cancer
No history of cardiopulmonary disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=========================
VITALS: T 98.7F, BP 151/108, HR 83, RR 16, O2 sat 95% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Expiratory wheezes appreciated in all lung fields
Abdomen: mild epigastric tenderness to palpation, but otherwise
soft, non-distended, with bowel sounds present 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: patient is able to move all four extremities. Face is
symmetric. Voice non-dysarthric.
Psych: flat affect appreciated 

DISCHARGE PHYSICAL EXAM:  
=========================
VITALS: T 98.4F, BP 139/96, HR 76, RR 18, O2 sat 100% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Expiratory wheezes appreciated in all lung fields
Abdomen: mild epigastric tenderness to palpation, but otherwise
soft, non-distended, with bowel sounds present 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: patient is able to move all four extremities. Face is
symmetric. 
Psych: normal affect appreciated 

 
Pertinent Results:
ADMISSION LABS:
=================
___ 09:10AM BLOOD WBC-5.6 RBC-3.96 Hgb-11.9 Hct-36.5 MCV-92 
MCH-30.1 MCHC-32.6 RDW-13.7 RDWSD-46.8* Plt ___
___ 09:10AM BLOOD Neuts-46.6 ___ Monos-12.2 Eos-3.0 
Baso-0.2 Im ___ AbsNeut-2.60 AbsLymp-2.11 AbsMono-0.68 
AbsEos-0.17 AbsBaso-0.01
___ 09:10AM BLOOD Plt ___
___ 09:10AM BLOOD Glucose-80 UreaN-7 Creat-0.9 Na-139 K-3.8 
Cl-102 HCO3-27 AnGap-10
___ 09:10AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.7

DISCHARGE LABS:
===============
___ 07:02AM BLOOD WBC-6.3 RBC-3.91 Hgb-12.0 Hct-36.1 MCV-92 
MCH-30.7 MCHC-33.2 RDW-13.6 RDWSD-46.5* Plt ___
___ 07:02AM BLOOD Plt ___
___ 07:02AM BLOOD Glucose-86 UreaN-7 Creat-0.9 Na-140 K-4.3 
Cl-105 HCO3-24 AnGap-11
___ 07:02AM BLOOD Calcium-8.4 Phos-2.9 Mg-1.7

MICROBIOLOGY:
==============
__________________________________________________________
___ 7:50 pm SPUTUM

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 10:31 am
      URINE      TAKEN FROM TUBE # ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 3:20 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 12:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 12:56 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
____________________________________________________
___ 23:35
Influenza A by PCR POSITIVE 

IMAGING:
=========
___ Imaging CHEST (PA & LAT) 
  
New right lung opacity partially obscuring the right heart 
border may 
represent pneumonia in appropriate clinical setting.  

 
Brief Hospital Course:
ASSESSMENT & PLAN: 
===================== 
Mrs. ___ is a ___ woman w/ PMH of HTN, NIDDM, 
hypothyroidism, anxiety/ depression who presents with fever, 
cough, and shortness of breath, found to have influenza 
infection with likely super-imposed pneumonia.

ACUTE/ACTIVE PROBLEMS: 
# Influenza complicated by superimposed pneumonia:
Patient presented with one day of fever and diffuse myalgias, 
with Influenza A positive by PCR. CXR demonstrating concern for 
possible super-imposed pneumonia as well. Sputum culture unable
to isolate any organisms. Given that patient presented within 
48hrs of symptom onset, we started Oseltamivir 75mg BID x5 days 
(___). We also started Doxycycline 100mg BID x5 days
(___). Of note, patient has significant wheezes on exam 
which may be related to bronchospasm secondary to influenza 
infection. However, also consider possible undiagnosed COPD 
given prolonged smoking history. Due to this, she was sent home 
with an albuterol inhaler. Please strongly consider work up for 
COPD. She received standing Duonebs Q6H in the ED. 

# Epigastric pain:
Patient reports mild epigastric pain worsening with palpation 
and sitting up. Otherwise described as non-exertional, 
non-pleuritic. Could be secondary to post-pertussis muscle 
strain. Labs were unremarkable making etiologies such as 
hepatobiliary pathology unlikely. ___ be considered GI upset 
from doxycycline.

# PAML:
Patient reports taking perphenazine as an outpatient, although 
per medication history patient hasn't filled the prescription 
since ___. Clarify psych medication regimen with outpatient
psychiatrist at ___.

CHRONIC/STABLE PROBLEMS: 
# HTN 
Continued on home losartan, verapamil, propranolol 

# DM 
On hospital ISS

# Hypothyroidism
Continued home levothyroxine

# Anxiety/depression 
Continued home citalopram, clonazepam, perphenazine. We were 
unable to order lurasidone as not on formulary.

#CODE: full code (confirmed)
#CONTACT:
- ___ (daughter): ___

Transitional Issues:
====================
New Medications: 
- Oseltamivir 75mg BID x5 days (___)
- Doxycycline 100mg BID x5 days (___)
- Albuterol PRN
- Naproxen 500 mg PO Q12H:PRN headache. 5 day supply 
Change in Medications:
- None

Discontinued Medications:
- None 

[ ] Oseltamivir and Doxycycline for 5 days, last day ___
[ ] Please strongly consider work up for COPD
[ ] Clarify psych medication regimen with outpatient 
psychiatrist at ___.
[ ] Please follow up on her chronic headache and management. We 
discouraged the use of antispasmodics and opioids for headache.

>30 minutes spent on discharge planning including face to face 
time 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lurasidone 60 mg oral DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY 
5. Propranolol 20 mg PO BID 
6. Verapamil SR 80 mg PO Q24H 
7. ClonazePAM 1 mg PO TID:PRN anxiety 
8. Citalopram 40 mg PO DAILY 
9. Perphenazine 16 mg PO BID 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN Short of breath 
RX *albuterol sulfate [Ventolin HFA] 90 mcg ___ puff Q6H PRN 
Disp #*1 Inhaler Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
3.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*12 
Tablet Refills:*0 
4.  OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*6 
Capsule Refills:*0 
5.  Citalopram 40 mg PO DAILY  
6.  ClonazePAM 1 mg PO TID:PRN anxiety  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Losartan Potassium 50 mg PO DAILY  
9.  lurasidone 60 mg oral DAILY  
10.  MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY  
11.  Perphenazine 16 mg PO BID  
12.  Propranolol 20 mg PO BID  
13.  Verapamil SR 80 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
=========
Type A flu
Bacterial pneumonia isolation

SECONDARY:
===========
Migraine headaches
diabetes
Hypertension
Hypothyroidism
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a privilege caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital for concerns of a cough as well as 
shortness of breath.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were diagnosed with the flu and found to have a bacterial 
pneumonia as well.
- We started you on antiviral and antibiotics for the flu and 
pneumonia.
- Your fever, muscle aches and general flu symptoms improved.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___